US05317017
Step D: 2,3,4,5-Tetrahydro-3-amino-4-(4-methoxyphenyl)-1H-1-benzazepin-2-one
A solution of 2,3,4,5-tetrahydro-3-azido-4-(4-methoxyphenyl)-1H-1-benzazepin-2-one (170 mg, 0.552 mmol) in 5 mL of wet tetrahydrofuran was treated with triphenylphosphine (256 mg, 1 mmol, 1.8eq) and the resulting mixture heated at reflux for 6 hours, then cooled to room temperature. The solvent was removed under vacuum and the residue was purified on a silica gel column (eluant 10% MeOH/CH2Cl2) to give the product in quantitative yield. 1H NMR (400 MHz, CDCl3): 1.35 (br s, 2H), 2.90 (dd; 6,13 Hz; 1H), 3.05 (dd; 12, 13 Hz; 1H), 3.67 (m, 2H), 3.77 (s, 3H), 6.84 (d, 8Hz, 2H), 7.01 (d, 8 Hz, 1H), 7.13-7.30 (m, 5H), 8.22 (br s, 1H). FAB-MS: calculated for C17H18N2O2 282; found 283 (40%).

reactant | 2,3,4,5-tetrahydro-3-azido-4-(4-methoxyphenyl)-1H-1-benzazepin-2-one | 0.552 mmol, 170 mg | N(=[N+]=[N-])C1C(NC2=C(CC1C1=CC=C(C=C1)OC)C=CC=C2)=O | C17H16N4O2
reactant | triphenylphosphine | 1 mmol, 256 mg, 1.8eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 2,3,4,5-Tetrahydro-3-amino-4-(4-methoxyphenyl)-1H-1-benzazepin-2-one | quantitative yield | NC1C(NC2=C(CC1C1=CC=C(C=C1)OC)C=CC=C2)=O | C17H18N2O2
